US04316893
Preparation of 1-n-Heptylazacycloheptan-2-one having the formula
Following example 10, 10.2 g of 50% sodium hydride-mineral oil dispersion (15.1 g of NaH, 0.2125 M), 20 g (0.177 M) of azacycloheptan-2-one and 35.8 g (0.2 M) of 1-bromoheptane on 18 hr. reflux gave 33.5 g (90%) of colorless product; b.p. 155°-158°/0.5 mm.

reactant | sodium hydride | 10.2 g | [H-].[Na+]
reactant | NaH | 15.1 g | [H-].[Na+]
reactant | azacycloheptan-2-one | 0.177 M, 20 g | N1C(CCCCC1)=O | C6H11NO
reactant | 1-bromoheptane | 0.2 M, 35.8 g | BrCCCCCCC | C7H15Br
product | 1-n-Heptylazacycloheptan-2-one | 33.5 g, 90% | C(CCCCCC)N1C(CCCCC1)=O | C13H25NO
